US04299821
3.78 g (8 mmoles) of Z-Glp-D-Leu-Pro-NH2 are dissolved in 150 ml of methanol, 0.8 g of a 10% palladium-on-carbon catalyst are added, and hydrogen is bubbled through the mixture for one hour. The catalyst is filtered off, the filtrate is evaporated, and the residue is triturated with ether. The resulting 2.5 g of amorphous crude product are dissolved in water, the solution is decolourized, filtered, and the clear filtrate is freeze-dried. 2.35 g (87%) of Glp-D-Leu-Pro-NH2 are obtained; Rf4 =0.48, [α]D25 =-83.3° (c=1%, in acetic acid).

reactant | Z-Glp-D-Leu-Pro-NH2 | 8 mmoles, 3.78 g | N1([C@@H](CCC1=O)C(=O)N[C@H](CC(C)C)C(=O)N1[C@H](C(=O)N)CCC1)C(=O)OCC1=CC=CC=C1 | C24H32N4O6
solvent | methanol | 150 ml | CO | CH4O
catalyst | palladium-on-carbon | [Pd] | Pd
product | Glp-D-Leu-Pro-NH2 | 2.35 g, 87% | N1[C@@H](CCC1=O)C(=O)N[C@H](CC(C)C)C(=O)N1[C@H](C(=O)N)CCC1 | C16H26N4O4
